Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Aspirin / ibuprofen
 
Attending: ___.
 
Chief Complaint:
Back and left leg pain
 
Major Surgical or Invasive Procedure:
L4-5 microdiscectomy

 
History of Present Illness:
THis is a ___ year old female with known herniated discs at
L4-5 and L5-S1. This was first detected about ___ years ago.  
She
initially did physical therapy which helped significantly, and
she has been relatively pain free since that time.  HOwever, 
this
past week she spontaneously developed severe pack pain, 
radiating
down her Left leg. She was seen at ___ earlier
today, and was found to have persistent herniated disks at these
levels.  Transferred to ___ ER for further evaluation.  She
denies weakness, but pain to her L buttocks radiating down the
posterior thigh and calf.  She also reports numbness to the top
of her left foot. 

 
Past Medical History:
A.D.D

 
Social History:
___
Family History:
NC
 
Physical Exam:
PHYSICAL EXAM:
O: T: 98.1 BP: 92/68         HR: 83   R:18       O2Sats: 100%
Gen: WD/WN, comfortable, NAD. Lying on bed with cane

Neck: Supple.

Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Motor:
      D    B     T    WE   WF    IP    Q  H     AT    ___    G

Sensation: Intact to light touch, propioception, pinprick and
vibration bilaterally.

Reflexes: Br Pa Ac
Right     ___ 
Left      ___

Propioception intact
Toes downgoing bilaterally
Rectal exam normal sphincter control

 
Pertinent Results:
MRI lumbar spine ___

Shows L4-5 herniated disc with compression of L L5 nerve root. 
 
Brief Hospital Course:
Pt was admitted to neurosurgery service for further evaluation 
and pain control. She was intially started on decadron to help 
with pain control and this offered no relief and she was unable 
to ambulate. Her physical exam showed trace ___ weakness and 
it was decided she would benefit from decompression. She was 
taken to the OR on ___ for L4-5 discectomy. She tolerated this 
procedure very well with no complications. Post operatively she 
was transferred back to the floor. On post op exam her leg pain 
had improved and she only complained of surgical site pain. Her 
strength was full on examination. She was able to ambulate 
without difficulty and she will be discharged home on ___ in 
stable condition. 
 
Medications on Admission:
1. Concerta 27mg Daily
2. Immitrex PRN
3. Codeine
4. Colace

 
Discharge Medications:
1. Concerta 27 mg Tablet Extended Rel 24 hr Sig: One (1) Tablet 
Extended Rel 24 hr PO Daily ().  
2. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
3. sulfamethoxazole-trimethoprim 800-160 mg Tablet Sig: One (1) 
Tablet PO BID (2 times a day) for 3 days.
Disp:*6 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L L4-5 herniated disc

 
Discharge Condition:
AOx3. Activity as tolerated. No lifting greater than 10 pounds. 

 
Discharge Instructions:
        Do not smoke
        Keep wound clean / No tub baths or pools until seen in 
follow up/ remove dressing POD#2   / begin daily showers POD#4
        If you have steri-strips in place  keep dry x 72 
hours.  They will fall off on their own or be taken off in the 
office
        No pulling up, lifting> 10 lbs., excessive bending or 
twisting for two weeks.
        Limit your use of stairs to ___ times per day
        Have a family member check your incision daily for 
signs of infection
        If you are required to wear one, wear cervical collar 
or back brace as instructed
        You may shower briefly without the collar / back brace 
unless instructed otherwise
        Take pain medication as instructed; you may find it 
best if taken in the a.m. when you wake for morning stiffness 
and before bed for sleeping discomfort
        Do not take any anti-inflammatory medications such as 
Motrin, Advil, aspirin, Ibuprofen etc. for 3 months.
        Increase your intake of fluids and fiber as pain 
medicine (narcotics) can cause constipation
        Clearance to drive and return to work will be addressed 
at your post-operative office visit
 
CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING:
 
        Pain that is continually increasing or not relieved by 
pain medicine
        Any weakness, numbness, tingling in your extremities
        Any signs of infection at the wound site: redness, 
swelling, tenderness, drainage
        Fever greater than or equal to 101 F 
        Any change in your bowel or bladder habits 
 
 

 
Followup Instructions:
___